US05061706
e. 7-Acetyl-6 -cyano-1-hydroxyquinoxaline-2,3(1H,4H)-dione
A solution of 1-acetyl-2-cyano-4-ethoxalylamino-5-nitrobenzene (0.31 g, 1 mmol) in 10 ml of N,N-dimethylformamide was hydrogenated at atmospheric pressure and room temperature for 1 h in the presence of 30 mg of 5% platinum on carbon. The catalyst was filtered off, and the filtrate was evaporated to dryness. The pure product was obtained after recrystallization from water with decolourising charcoal. Yield 0.12 g (49%). M.p. 340.8° C. decomp. (DSC); IR (KBr): 2238 (CN), 1692 cm-1 ; 1H-NMR (DMSO-d6): 2.62 (s, 3H, CH3), 7.43 (s, 1H, ArH), 7.96 (s, 1H, ArH), ca. 12 (very broad s, 2H, NH and OH); MS m/e: 245 (M+, 26%).

reactant | 1-acetyl-2-cyano-4-ethoxalylamino-5-nitrobenzene | 1 mmol, 0.31 g | C(C)(=O)C1=C(C=C(C(=C1)[N+](=O)[O-])NC(=O)C(=O)OCC)C#N | C13H11N3O6
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | platinum on carbon | 30 mg | [Pt] | Pt
product | 7-Acetyl-6 -cyano-1-hydroxyquinoxaline-2,3(1H,4H)-dione | C(C)(=O)C1=C(C=C2NC(C(N(C2=C1)O)=O)=O)C#N | C11H7N3O4
